US06420426B1
A stirring solution of [2-(4-bromo-2-fluoro-benzylthiocarbamoyl)-5-fluoro-4-methyl-phenoxy]-acetic acid ethyl ester (0.79 g, 1.53 mmol) in ethanol (7.6 mL, 0.2 M) and treated with aqueous NaOH (2 N, 7.4 mL, 9.15 mmol) in an analogous fashion to Example 45, Step 9 to provide [2-(4-bromo-2-fluoro-benzylthiocarbamoyl)-5-fluoro-4-methyl-phenoxy]-acetic acid (0.65 g, 98%) as a yellow solid: mp 162-164° C.; Rf 0.41 (20% methanol in methylene chloride); 1H NMR (DMSO-d6, 300 mHz) δ 10.64 (t, J=5.0 Hz, 1H), 7.61 (d, J=9.0 Hz, 1H), 7.52 (dd, J1=9.6 Hz, J2=1.7 Hz, 1H), 7.45-7.36 (m, 2H), 7.00 (d, J=11.4 Hz, 1H), 4.89 (bd d, J=5.1 Hz, 2H), 4.78 (s, 2H), 2.15 (d, J=1.2 Hz, 3H); ESI-LC/MS m/z calcd for C17H14BrF2NO3S: 428.98; found 428.0 (M−1)−; Anal. calcd for C17H14BrF2NO3S: C, 47.45; H, 3.28; N, 3.26; S, 7.45. Found C, 47.54; H, 3.19; N, 3.11; S, 7.33.

reactant | [2-(4-bromo-2-fluoro-benzylthiocarbamoyl)-5-fluoro-4-methyl-phenoxy]-acetic acid ethyl ester | 1.53 mmol, 0.79 g | C(C)OC(COC1=C(C=C(C(=C1)F)C)C(NCC1=C(C=C(C=C1)Br)F)=S)=O | C19H18BrF2NO3S
reactant | NaOH | 9.15 mmol, 2 N, 7.4 mL | [OH-].[Na+]
solvent | ethanol | 0.2 M, 7.6 mL | C(C)O | C2H6O
product | [2-(4-bromo-2-fluoro-benzylthiocarbamoyl)-5-fluoro-4-methyl-phenoxy]-acetic acid | 0.65 g, 98% | BrC1=CC(=C(CNC(=S)C2=C(OCC(=O)O)C=C(C(=C2)C)F)C=C1)F | C17H14BrF2NO3S
